US04751316
Methyl 7-methyl-3-oxo-3,4-dihydro-2H-1,5-benzoxathiepin-4-carboxylate (1.7 g) is alkylated with 3-(4-phenylpiperazin-1-yl)propylchloride in the same manner as described in Example 1 to give methyl 7-methyl-3-oxo-4-[3-(4-phenylpiperazin-1-yl)propyl]-3,4-dihydro-2H-1,5-benzoxathiepin-4-carboxylate (0.9 g) as a colorless oil.

reactant | Methyl 7-methyl-3-oxo-3,4-dihydro-2H-1,5-benzoxathiepin-4-carboxylate | 1.7 g | CC=1C=CC2=C(SC(C(CO2)=O)C(=O)OC)C1 | C12H12O4S
reactant | 3-(4-phenylpiperazin-1-yl)propylchloride | C1(=CC=CC=C1)N1CCN(CC1)CCCCl | C13H19ClN2
product | methyl 7-methyl-3-oxo-4-[3-(4-phenylpiperazin-1-yl)propyl]-3,4-dihydro-2H-1,5-benzoxathiepin-4-carboxylate | 0.9 g | CC=1C=CC2=C(SC(C(CO2)=O)(C(=O)OC)CCCN2CCN(CC2)C2=CC=CC=C2)C1 | C25H30N2O4S
